US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[1-(2,2-dimethyl-propyl)-pyrrolidin-3-yl]-1H-imidazol-4-yl}-amide
1-[1-(2,2-Dimethyl-propyl)-pyrrolidin-3-yl]-1H-imidazol-4-ylamine was coupled with 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.0, 18.9, 28.6, 33.0, 33.4, 35.9, 43.1, 53.1, 55.7, 57.3, 63.5, 68.3, 102.6, 102.8, 103.1, 106.6, 112.3, 112.5, 112.6, 132.1, 137.7, 138.8, 161.9, 164.5, 169.1; MS m/z 476.2 (M+1).

reactant | 1-[1-(2,2-Dimethyl-propyl)-pyrrolidin-3-yl]-1H-imidazol-4-ylamine | CC(CN1CC(CC1)N1C=NC(=C1)N)(C)C | C12H22N4
reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)O)CCC | C13H15F2NO3
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[1-(2,2-dimethyl-propyl)-pyrrolidin-3-yl]-1H-imidazol-4-yl}-amide | CC(CN1CC(CC1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)(C)C | C25H35F2N5O2
